US05962440
A. 2-Amino-1,3-bis(trimethylsilyloxy)propane
A stirred solution of 1.84 g (20.0 mmol) of serinol in 4.25 mL (20.1 mmol) of hexamethyldisilazane containing 1 drop of bromotrimethylsilane was heated to 180° C. under argon. After 16 h, the reaction mixture was partially cooled and distilled at 0.6 Torr, collecting the fraction with bp 44-47° C. to give title compound as a colorless liquid, 4.05 g, 86%.

reactant | serinol | 20.0 mmol, 1.84 g | NC(CO)CO | C3H9NO2
reactant | bromotrimethylsilane | Br[Si](C)(C)C | C3H9BrSi
catalyst | hexamethyldisilazane | 20.1 mmol, 4.25 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 2-Amino-1,3-bis(trimethylsilyloxy)propane | NC(CO[Si](C)(C)C)CO[Si](C)(C)C | C9H25NO2Si2
